US06787539B2
To a solution of 0.22 g (0.38 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-(2-methanesulfonyl-4-o-tolyloxy-pyrimidin-5-yl)-N-methyl-isobutyramide in 10 ml dioxane 0.106 ml (0.96 mmol) I-methylpiperazine was added. The reaction mixture was stirred for 16 hrs. After evaporation of the solvent, the residue was distributed between 50 ml CH2Cl2 and 50 ml sat. NaHCO3-solution. The aqueous layer was extracted with 50 ml CH2Cl2, the combined organic layers dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/MeOH/NH4OH 110:10:1) to give 0.11 g (48%) 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-[2-(4-methyl-piperazin-1-yl)-4-o-tolyloxy-pyrimidin-5-yl]-isobutyramide as a white foam, MS (ISP): 596.2 (M+H)+.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-(2-methanesulfonyl-4-o-tolyloxy-pyrimidin-5-yl)-N-methyl-isobutyramide | 0.38 mmol, 0.22 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C(=NC(=NC1)S(=O)(=O)C)OC1=C(C=CC=C1)C)(C)C)(F)F | C25H23F6N3O4S
reactant | dioxane | 0.96 mmol, 10 ml | O1CCOCC1 | C4H8O2
product | 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-[2-(4-methyl-piperazin-1-yl)-4-o-tolyloxy-pyrimidin-5-yl]-isobutyramide | 0.11 g, 48% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C(=NC(=NC1)N1CCN(CC1)C)OC1=C(C=CC=C1)C)C)(C)C)(F)F | C29H31F6N5O2
